US05688808
A mixture of aniline (3.0 g, 32 mmol) and crotonic acid (2.0 g, 23 mmol) in toluene (20 mL ) was heated at reflux for 18 h. Removal of solvent and chromatography (silica gel, EtOAc/hexane, 9/1) of the crude material afforded 2.5 g (61%) of 3-phenylaminobutanoic acid. The acid was treated with PPA (20 mL ) at 110° C. for 6 h and the reaction mixture was poured into ice water (50 mL) and then was neutralized with Na2 CO3 to pH 7. Extraction with EtOAc (3×60 mL) followed by chromatography (silica gel, EtOAc/hexane, 4/6) afforded 1.0 g (44%) of 1,2,3,4-tetrahydro-2-methyl-4-quinolinone (structure 59A of Scheme XL VIII, where R1 =R3 =H, R2 =methyl) as a yellow solid. The quinolinone was treated with di-tert-butyl dicarbonate (2.2 g, 10 mmol) and DMAP (0.84 g, 6.8 mmol) in THF (15 mL) for 16 h followed by chromatography (silica gel, EtOAc/hexane, 2/8) to afford 1.1 g (68%) of 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2-methyl-4-quinolinone as a yellow oil. Data for 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2-methyl-4-quinolinone: 1H NMR (400 MHz, CDCl3) 7.99 (d, J=7.5, 1H), 7.78 (d, J=7.5, 1H), 7.50 (t, J=7.5, 1H), 7.12 (t, J=7.5, 1H), 5.10 (m, 1H), 3.04 (dd, J=17.3,5.8, 1H), 2.57 (dd, J=17.3, 1.7, 1H), 1.56 (s, 9H), 1.22 (d, J=6.9, 3H).

reactant | quinolinone | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
reactant | di-tert-butyl dicarbonate | 10 mmol, 2.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
catalyst | DMAP | 6.8 mmol, 0.84 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2-methyl-4-quinolinone | 1.1 g, 68% | C(C)(C)(C)OC(=O)N1C(CC(C2=CC=CC=C12)=O)C | C15H19NO3
